US08729081B2
The mixture of 4-(chloromethyl)-2-(4-chlorophenyl)-5-methyloxazole (1.21 g, 5 mmole, commercially from Fluorochem) and ethyl piperidine-4-carboxylate (0.81 mL, 1.05 equiv.), K2CO3 (1.03 g, 1.5 equiv) in dioxane was stirred at 70° C. for 2 h. The reaction solution was cooled to room temperature and the solid was filtered off, rinsed with dichloromethane. The filtrate was concentrated and the residue was recrystallized from hexane to furnish Ethyl 1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxylate (1.65 g, 91%).

reactant | 4-(chloromethyl)-2-(4-chlorophenyl)-5-methyloxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)Cl | C11H9Cl2NO
reactant | ethyl piperidine-4-carboxylate | 0.81 mL, 1.05 equiv. | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | K2CO3 | 1.03 g, 1.5 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Ethyl 1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxylate | 1.65 g, 91% | ClC1=CC=C(C=C1)C=1OC(=C(N1)CN1CCC(CC1)C(=O)OCC)C | C19H23ClN2O3
